US04814265
(c) Synthesis of 2-methylthiocycloheptimidazole
First, 38 g of potassium hydroxide was dissolved in 800 ml of methanol, 100 g of 2-mercaptocycloheptimidazole was added thereto, and the mixture was stirred with heating to the inner temperature of about 45° C. Then, 131.2 g of dimethyl sulfate was added dropwise thereto and stirred with heating to the inner temperature of about 45° C. for one hour. After the solvent was distilled away to some extent under reduced pressure, 1 l of water was added and extracted with chloroform (0.5 l×2). After being dried over anhydrous sodium sulfate, the chloroform layer was evaporated under reduced pressure to 200 ml, and 1 l of hexane was added thereto to deposite crystals, which were the filtered and dried.

reactant | potassium hydroxide | 38 g | [OH-].[K+]
reactant | 2-mercaptocycloheptimidazole | 100 g | SC=1N=C2C(N1)=CC=CC=C2 | C8H6N2S
reactant | dimethyl sulfate | 131.2 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | methanol | 800 ml | CO | CH4O
product | 2-methylthiocycloheptimidazole | CSC=1N=C2C(N1)=CC=CC=C2 | C9H8N2S
